US04450167
230 ml of a toluene solution of triisobutyl aluminum were added with stirring at 8°-10° C. over 30 minutes to a mixture of 61.5 gof p-anisidine in one liter of anhydrous methylene chloride and then 21.7 gof ethyl 4-hydroxy-3-quinoline-carboxylate [described in J.A.C.S., Vol. 68 (1946), p. 1264] were added to the mixture in small portions. The mixture was refluxed for 20 hours and was evaporated to dryness. The residue was taken up in a mixture of 500 g of ice and 500 ml of aqueous 6 N hydrochloric acid and the mixture was stirred for 6 hours and vacuum filtered. The recovered product was washed with water until there were no chloride ions in the wash water, dried at 100° C. and was crystallized from acetic acid to obtain 23.54 g of 4-hydroxy-N-(4-methoxyphenyl)-3-quinoline-carboxamide melting at >260° C.

reactant | toluene | 230 ml | C1(=CC=CC=C1)C | C7H8
reactant | triisobutyl aluminum | C(C(C)C)[Al](CC(C)C)CC(C)C
reactant | p-anisidine | COC1=CC=C(C=C1)N | C7H9NO
reactant | ethyl 4-hydroxy-3-quinoline-carboxylate | OC1=C(C=NC2=CC=CC=C12)C(=O)OCC | C12H11NO3
solvent | methylene chloride | one liter | C(Cl)Cl | CH2Cl2
product | 4-hydroxy-N-(4-methoxyphenyl)-3-quinoline-carboxamide | 23.54 g | OC1=C(C=NC2=CC=CC=C12)C(=O)NC1=CC=C(C=C1)OC | C17H14N2O3
